US07001900B2
Bromocatecholborane (4.18 g, 21 mmol) is added to a solution of 1,7-dimethoxynaphthalene (1.97 g, 10.5 mmol) in dichloroethane (20 mL). The resulting solution is heated to reflux for 72 hours, allowed to cool and then poured into 1N HCl. The resulting mixture is extracted three times with CH2Cl2. The combined organic layers are dried (Na2SO4), filtered and concentrated to dryness. The product is purified by three columns (step gradient of 50–60–70% CH2Cl2 in hexanes) to give 8-methoxy-2-hydroxy naphthalene as a gummy solid (92% pure, 633 mg, 35%). 1H NMR (300 MHz, CDCl3) δ 7.72, 7.55, 7.36, 7.20, 7.11, 6.79, 5.02, 3.97.

reactant | 1,7-dimethoxynaphthalene | 10.5 mmol, 1.97 g | COC1=CC=CC2=CC=C(C=C12)OC | C12H12O2
reactant | HCl | 1N | Cl | ClH
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 8-methoxy-2-hydroxy naphthalene | COC=1C=CC=C2C=CC(=CC12)O | C11H10O2
